US09284286B2
To a solution of 3-chloro-1-(4-fluorophenyl)-propan-1-one (4.0 g, 21.5 mmol) in AcOH (30 ml) in a sealed tube are added sodium acetate (8.64 g, 105.4 mmol) and potassium iodide (0.36 g, 2.15 mmol) at RT. The reaction mixture is stirred at 130° C. for 16 h. After completion of reaction, the mixture is diluted with water (60 ml) and neutralized with aqueous sodium carbonate at 0° C. The aqueous layer is extracted with DCM (3×100 ml). The combined organic layers are washed with water (200 ml), brine (200 ml), dried over anhydrous sodium sulfate and evaporated in vacuo to get the crude product, which is purified by column chromatography (silica gel, 10% EtOAc/hexane) to yield acetic acid [3-(4-fluorophenyl)-3-oxo-propyl]ester (3.00 g, 14.3 mmol, 66%).

reactant | 3-chloro-1-(4-fluorophenyl)-propan-1-one | 21.5 mmol, 4.0 g | ClCCC(=O)C1=CC=C(C=C1)F | C9H8ClFO
reactant | sodium acetate | 105.4 mmol, 8.64 g | C(C)(=O)[O-].[Na+]
reactant | potassium iodide | 2.15 mmol, 0.36 g | [I-].[K+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | AcOH | 30 ml | CC(=O)O | C2H4O2
solvent | water | 60 ml | O | H2O
product | acetic acid [3-(4-fluorophenyl)-3-oxo-propyl]ester | 14.3 mmol, 3.00 g, 66% | FC1=CC=C(C=C1)C(CCOC(C)=O)=O | C11H11FO3
